US07902252B2
A solution of the ethyl 1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (1.0 g, 5.58 mmol) in THF/Water (10:1, 11 mL) at 0° C. was deoxygenated by passing a stream of dry nitrogen gas for 10 min. A solution of 2,3-dichloro-5,6-dicyano-1,4-benzochinone (DDQ) in THF (4 mL) was added dropwise over 5 min. After stirring for 1.5 h, the cooling bath was removed and stirring was continued at rt. Silica gel was added, the solvent stripped off and the silica gel-imbedded material was purified by flash chromatography (0-60% EtOAc/Heptane) to afford ethyl 6-oxo-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate as a taupe solid (270 mg, 25%). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.39 (t, J=7.13 Hz, 3H), 2.87-2.95 (m, 4H), 4.39 (q, J=7.13 Hz, 2H), 6.78 (d, J=1.66 Hz, 1H), 9.86 (s, 1H); LCMS-MS (ESI+) 193.9 (M+H).

reactant | ethyl 1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 5.58 mmol, 1.0 g | N1C2=C(C=C1C(=O)OCC)CCC2 | C10H13NO2
reactant | THF Water | 11 mL | C1CCOC1.O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | ethyl 6-oxo-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | O=C1CCC2=C1NC(=C2)C(=O)OCC | C10H11NO3
